US06465493B1
Example 27: 4-(5-Benzo[1,3]dioxol-5-yl-4-pyridin-2-yl-oxazol-2-yl)benzamide
Prepared from 4-(5-benzo[1,3]dioxol-5-yl-4-pyridin-2-yl-oxazol-2-yl)-benzonitrile using hydrogen peroxide and methanolic potassium carbonate according to Example 16 and isolated in 44% yield. 1H NMR (DMSO) δ: 6.15 (2H, s), 7.08-7.16 (2H, m), 7.45-7.54 (2H, m), 7.95-7.99 (1H, m), 8.02 (1H, br. s), 8.08 (1H, br. s), 8.12-8.15 (2H, m), 8.22 (1H, dd, J=7 and 1 Hz), 8.48 (1H, d, J=8 Hz), 8.74 (1H, d, J=8 Hz); m/z (API) 386 (M+H+).

reactant | 4-(5-benzo[1,3]dioxol-5-yl-4-pyridin-2-yl-oxazol-2-yl)-benzonitrile | O1COC2=C1C=CC(=C2)C2=C(N=C(O2)C2=CC=C(C#N)C=C2)C2=NC=CC=C2 | C22H13N3O3
reactant | hydrogen peroxide | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-(5-Benzo[1,3]dioxol-5-yl-4-pyridin-2-yl-oxazol-2-yl)benzamide | 44% yield | O1COC2=C1C=CC(=C2)C2=C(N=C(O2)C2=CC=C(C(=O)N)C=C2)C2=NC=CC=C2 | C22H15N3O4
